US09340544B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-phenethyl-amine (Compound 9.11
Was prepared according to Example 9 from (2-hydrazino-9-methyl-9H-purin-6-yl)-phenethyl-amine and 2,4-pentanedione.

reactant | (2-hydrazino-9-methyl-9H-purin-6-yl)-phenethyl-amine | N(N)C1=NC(=C2N=CN(C2=N1)C)NCCC1=CC=CC=C1 | C14H17N7
reactant | 2,4-pentanedione | CC(CC(C)=O)=O | C5H8O2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-9-methyl-9H-purin-6-yl]-phenethyl-amine | CC1=NN(C(=C1)C)C1=NC(=C2N=CN(C2=N1)C)NCCC1=CC=CC=C1 | C19H21N7
